US07560586B2
(R)-2-(3-{3-[[3-(trifluoromethyl)-4-fluoro-benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}phenyl)acetic acid and 3-trifluoromethyl-4-fluoro-benzaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The resulting amine/carboxylic acid was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 72 mg (67%). MS (ESI) 580.4 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]2-methyl-propoxy}phenyl)acetic acid | C1(=CC=CC=C1)C(CNC[C@H](COC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 3-trifluoromethyl-4-fluoro-benzaldehyde | FC(C=1C=C(C=O)C=CC1F)(F)F | C8H4F4O
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[3-(trifluoromethyl)-4-fluoro-benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}phenyl)acetic acid hydrochloride salt | Cl.FC(C=1C=C(CN(C[C@H](COC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1F)(F)F | InChI=1S/C34H33F4NO3.ClH/c1-24(23-42-29-14-8-9-25(17-29)19-33(40)41)20-39(21-26-15-16-32(35)31(18-26)34(36,37)38)22-30(27-10-4-2-5-11-27)28-12-6-3-7-13-28;/h2-18,24,30H,19-23H2,1H3,(H,40,41);1H/t24-;/m1./s1
